US07485634B2
Preparation of 3-methyl-1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylic acid ethyl ester
To a solution of ethyl 1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylate (0.15 g 0.6 mmol) in DMF (2 mL) was added sodium hydride (60%, 28 mg, 0.7 mmol) at 0° C. and a solution of MeI (38 μL, 0.7 mmol). The mixture was stirred for 30 min at 0° C. Water was added to the reaction mixture, which was then extracted by DCM. The combined organic layer was washed with water and dried over magnesium sulfate. Evaporation of solvent gave a crude product, which was purified by column chromatography on silica gel eluting with MeOH-DCM (5:95) and then further purified by preparative HPLC to afford the title compound (86 mg); 1H-NMR (CDCl3): δ 10.50 (1H, s), 8.26 (1H, m), 7.77 (1H, s), 7.40 (1H, d), 7.31 (1H, d), 7.05 (2H, m), 5.35 (1H, s), 4.28 (2H, q), 3.54 (2H, t), 3.26 (3H, s), 3.14 (2H, m), 1.36 (3H, t). MS (ES): 271 (MH+).

reactant | ethyl 1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylate | 0.6 mmol, 0.15 g | C1CNC=C(C=2NC=3C=CC=CC3C21)C(=O)OCC | C15H16N2O2
reactant | sodium hydride | 0.7 mmol, 28 mg | [H-].[Na+]
reactant | MeI | 0.7 mmol, 38 μL | CI | CH3I
reactant | Water | O | H2O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 3-methyl-1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylic acid ethyl ester | 86 mg | C(C)OC(=O)C1=CN(CCC2=C1NC=1C=CC=CC21)C | C16H18N2O2
